Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / morphine / prochlorperazine / coconut oil / coconut
 
Attending: ___.
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with nephrolithiasis (5mm, nonobstructing stone in L renal
pelvis, prior hospitalization for MDE Ecoli urosepsis),
DVT/PE on xeralto, CVA with residual L sided weakness, severe
GERD/esophagitis, chronic abdominal pain in setting of gastric
bypass c/b SBOs/multiple surgeries/adhesions, chronic lower back
pain, chronic opiate use with history of abuse, depression and
anxiety who is admitted due to concern for altered mental state
at home. 

Pt was recently admitted to ___ due to symptoms of gastritis
and esophagitis and discharged on ___. During her
hospitalization, she had an increase in her hydromorphone dose
from 2 mg to ___ mg q4 prn and promethazine added for nausea. Pt
discharged home with home ___. Yesterday, her sister, daughter,
and mother visited her and noted that she was forgetful mid
sentences and was speaking slowly and possibly having trouble
getting words out. ___ recommended evaluation in the ED given 
her
history of CVA and concern for possible TIA. Pt also had a fall
after standing up too quickly but did not lose consciousness but
strike her head.

In the ED, pt with stable vitals. Exam notable for impaired
attention, L facial droop and L sided weakness. Urinalysis was
unremarkable. CT head without contrast was similarly
unremarkable. Pt admitted for further care and workup of her
mental status change. 
  
ROS: As above. Denies headache, lightheadedness, dizziness, sore
throat, sinus congestion, chest pain, heart palpitations,
shortness of breath, cough, nausea, vomiting, diarrhea,
constipation, urinary symptoms, muscle or joint pains, focal
numbness or tingling, skin rash. The remainder of the ROS was
negative.

 
Past Medical History:
R knee menisectomy ___
DVT/PE
DMII- resolved with weight loss after gastric bypass
Asthma-resolved with weight loss after gastric bypass 
CVA ___ with residual left facial droop
Myelopathy NOS
Obesity s/p gastric bypass
Severe gastritis/esophagitis w/odynophagia
Recurrent esophageal candidiasis,
Multiple abdominal surgeries for "stomach leak"
s/p CCY
h/o SBO
Hernia
PUD
GERD
macrocytic anemia
h/o MRSA
osteoarthritis
narcotic abuse
arthroplasty 
HTN
Hepatitis C- cleared 
nephrolithiasis 
thyromegaly
 
 
Social History:
___
Family History:
Mother with diabetes and HTN
Brother with CHF

 
Physical Exam:
GEN - NAD, sitting in bed
HEENT -  mild L facial droop, no scleral icterus
NECK - supple, no LAD
CV - rrr, no r/m/g
RESP - clear b/l
ABD - soft, nt/nd, +bs
EXT - R knee with surgical scar, no edema
SKIN - no rashes
NEURO - alert and oriented x 3, speaks in a fluent though slow
and sometimes halting manner, able to carry conversation with
minimal loss of attention, ___ strength in LUE and LLE, ___
strength on right, L facial droop, no evidence of neglect
PSYCH - calm, cooperative
 
Pertinent Results:
___ 07:05AM   GLUCOSE-82 UREA N-16 CREAT-0.9 SODIUM-143 
POTASSIUM-4.3 CHLORIDE-104 TOTAL CO2-28 ANION GAP-11
___ 07:05AM   ALT(SGPT)-12 AST(SGOT)-17 ALK PHOS-119* TOT 
BILI-0.3
___ 07:05AM   MAGNESIUM-2.0
___ 07:05AM   WBC-3.7* RBC-3.20* HGB-9.7* HCT-30.6* MCV-96 
MCH-30.3 MCHC-31.7* RDW-16.3* RDWSD-58.4*
___ 07:05AM   PLT COUNT-225
___ 07:05AM   ___ PTT-32.5 ___
___ 01:36AM URINE  bnzodzpn-POS* barbitrt-NEG opiates-POS* 
cocaine-NEG amphetmn-POS* oxycodn-POS* mthdone-POS*
___ 01:36AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 01:36AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-MOD*
___ 01:36AM URINE  RBC-1 WBC-4 BACTERIA-FEW* YEAST-NONE 
EPI-4
___ 11:30PM   GLUCOSE-106* UREA N-21* CREAT-1.0 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-24 ANION GAP-13
___ 11:30PM   ALT(SGPT)-11 AST(SGOT)-17 ALK PHOS-118* TOT 
BILI-0.2
___ 11:30PM   cTropnT-<0.01
___ 11:30PM   ALBUMIN-2.6* CALCIUM-8.3* PHOSPHATE-4.1 
MAGNESIUM-1.5*
___ 11:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-15 bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 11:30PM   WBC-5.0 RBC-3.05* HGB-9.5* HCT-29.0* MCV-95 
MCH-31.1 MCHC-32.8 RDW-16.4* RDWSD-57.3*
___:30PM   NEUTS-56.2 ___ MONOS-7.2 EOS-1.2 
BASOS-0.6 IM ___ AbsNeut-2.79 AbsLymp-1.71 AbsMono-0.36 
AbsEos-0.06 AbsBaso-0.03
___ 11:30PM   PLT COUNT-220
___ 11:30PM   ___ PTT-36.0 ___
___ 09:12PM   LACTATE-1.5
___ 09:00PM   WBC-5.2# RBC-3.44* HGB-10.1* HCT-33.4* MCV-97 
MCH-29.4 MCHC-30.2* RDW-16.4* RDWSD-58.7*
___ 09:00PM   NEUTS-61.3 ___ MONOS-8.0 EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-3.16# AbsLymp-1.49 AbsMono-0.41 
AbsEos-0.06 AbsBaso-0.02
___ 09:00PM   PLT COUNT-225
___ 08:45AM BLOOD WBC-3.1* RBC-3.43* Hgb-10.5* Hct-32.9* 
MCV-96 MCH-30.6 MCHC-31.9* RDW-16.9* RDWSD-59.5* Plt ___
___ 08:45AM BLOOD Lupus-POS*
___ 08:45AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.7

MRI brain ___ FINDINGS:  
  
There are three punctate areas of decreased diffusion (series 
502; image 11) 
in the right cerebellar hemisphere, one of which has corollary 
high signal on 
FLAIR imaging (series 7; image 9).  These findings suggest acute 
to subacute 
infarction of the right cerebellum.  No additional areas of 
infarction are 
identified.  There is no evidence of hemorrhage, edema, masses, 
mass effect, 
or midline shift.  The ventricles and sulci are normal in 
caliber and 
configuration.  There is no abnormal enhancement after contrast 
administration. 
  
IMPRESSION:  
  
Three punctate areas decreased diffusion in the right cerebellar 
hemisphere, 
one of which has correlating FLAIR abnormality, suggest acute to 
subacute 
right cerebellar infarction.  No evidence of hemorrhage or other 
infarction. 

 
Brief Hospital Course:
___ year old F with prior CVA with L sided weakness and facial
droop, history of gastric bypass, gastritis, DVT/PE on
anticoagulation, and chronic pain and anxiety on multiple pain
medications who is now admitted due to concern for altered 
mental
state at home. Mental status improved after holding back on
sedating meds, but MRI showed new right-sided cerebellar stroke. 


# Altered mental state.  The patient was discharged from her 
previous hospital stay with clear mental status and no acute 
neuro abnormalities.  However, on arrival to her home, she was 
noted to have slurred speech per her family and brought to the 
ER.  She was admitted to medicine where her sedating medications 
were tapered, back to Dilaudid 2mg every 4 hours and 
Promethazine to 6.25 (previously getting 25 last hospital stay). 
 Her mental status was back to normal with this change.  There 
was no evidence of metabolic abnormalities or infection that 
could have been the culprit for her encephalopathy.  I spoke 
with her PCP, ___, who understood the concerns for 
sedating medications, and acknowledged that he shares the goal 
of tapering them further.  We found a bottle of Dilaudid that 
she had from discharge that was empty in the bed.  She could not 
fully explain why the bottle did not have the pills in it that 
were supposed to last 5 days were gone in 2.  We have concerns, 
as does her sister ___, that the patient is not taking her 
medications at home appropriately, forgets doses, and may take 
too many, as she is forgetful.  We suggested that she have 
further assistance at home or elsewhere, but she wanted to 
return to her home.  We will add services such as ___ in addition 
to nursing services that already exist.  

#Acute/Subacute stroke in the right cerebellum.  The patient had 
an MRI on her second hospital day which showed the above 
findings.  She was seen by the neurology team who recommended 
that she have a CTA head and neck as well as an echo with bubble 
study.  The strokes were likely embolic in etiology given their 
location, and with Lupus anticoagulant positive (one time), this 
raised suspicion that she may have an underlying thrombophilia 
given her recent strokes in the past.  The patient has been on 
Xarelto for months, and claims to be compliant with this. We 
were unable to determine if she was non-compliant given above 
issues, or if she were compliant, which would represent a 
failure of Xarelto.  If she were to fail Xarelto, she could 
consider Coumadin with INR goal > 2.5.  However, with Hx of 2 GI 
bleeds, this poses risks.  After extensive counseling with the 
patient about the risks and benefits of remaining on Xarelto for 
the interim, she elected to do this, realizing that there is a 
risk of further thrombosis.  She will see a stroke specialist as 
an outpatient as well as a hematologist. She was unable to 
complete CTA secondary to IV infiltration, and inability to 
place another one. She declined a midline and said she would be 
better hydrated as an outpatient and try again.  Echo was done 
the evening prior to discharge, where the results are pending at 
the time of discharge. Her neurologist will use the results to 
help determine next steps in treatment. 

Total cholesterol 118 HDL 64 LDL 67 ___ 381; no acute statin 
therapy was recommended by Neurology, but her stroke MD can 
decide whether adding one would be beneficial.  She reports an 
allergy to ASA "upset stomach."  Her SBPs has been 
well-controlled with values averaging 100-130. 

# Chronic abdominal and back pain - Her hydrophorphone at prior 
dose of 2mg q4prn, and she continued on methadone at ___s Gabapentin.  

# Anxiety/Depression - continued home meds below, but one 
evening, Clonopin was held secondary to sedation.  
- clonazepam 0.5 bid
- buproprion 150 bid
- quetiapine 75 qhs
- doxepin 100 qhs

# Gastritis/esophagitis
- continue Carafate
- continue pantoprazole 
- continue ranitidine

# CODE STATUS: full

#Dispo - I had a conversation with the patient's sister ___ 
(pt gave consent) who expressed concerns about the patient being 
able to live at home by herself successfully.  She notes that 
the frequent bounce-backs are a product of her having 
difficulties in the home and thinks that she would be better in 
a closely supervised setting, such as the assisted living-like 
environment she was in for ___ years.  I explained that I also 
expressed these concerns to the patient, but she was adamant 
that she remain in her home.  She was able to articulate the 
risks, benefits, and alternatives of doing so.  She was 
agreeable to have more home services. I encouraged her sister to 
share her concerns with the patient's living environment with 
the patient herself, as this is ultimately her choice as to 
where she lives given her capacity to make her own decisions.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 150 mg PO BID 
2. ClonazePAM 0.5 mg PO BID anxiety 
3. Docusate Sodium 100 mg PO BID 
4. Doxepin HCl 100 mg PO HS 
5. Gabapentin 200 mg PO TID 
6. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Severe 
7. Methadone 20 mg PO TID 
8. Pantoprazole 40 mg PO Q12H 
9. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
10. QUEtiapine Fumarate 75 mg PO QHS 
11. Ranitidine 150 mg PO DAILY 
12. Rivaroxaban 20 mg PO DAILY 
13. Senna 8.6 mg PO BID 
14. Ursodiol 500 mg PO DAILY 
15. Promethazine 12.5 mg PO Q6H:PRN nausea 
16. Sucralfate 1 gm PO QID 
17. Ascorbic Acid ___ mg PO DAILY 
18. Cyanocobalamin 100 mcg PO DAILY 
19. Ferrous Sulfate 325 mg PO DAILY 
20. FoLIC Acid 1 mg PO DAILY 
21. Multivitamins W/minerals 1 TAB PO DAILY 
22. Thiamine 100 mg PO DAILY 
23. Vitamin D 1000 UNIT PO DAILY 
24. Acetaminophen 1000 mg PO Q8H 

 
Discharge Medications:
1.  HYDROmorphone (Dilaudid) 2 mg PO TID:PRN BREAKTHROUGH PAIN  
2.  Promethazine 6.25 mg PO TID:PRN nausea  
3.  Acetaminophen 1000 mg PO Q8H  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  BuPROPion (Sustained Release) 150 mg PO BID  
6.  ClonazePAM 0.5 mg PO BID anxiety  
7.  Cyanocobalamin 100 mcg PO DAILY  
8.  Docusate Sodium 100 mg PO BID  
9.  Doxepin HCl 100 mg PO HS  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  FoLIC Acid 1 mg PO DAILY  
12.  Gabapentin 200 mg PO TID  
13.  Methadone 20 mg PO TID  
14.  Multivitamins W/minerals 1 TAB PO DAILY  
15.  Pantoprazole 40 mg PO Q12H  
16.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
17.  QUEtiapine Fumarate 75 mg PO QHS  
18.  Ranitidine 150 mg PO DAILY  
19.  Rivaroxaban 20 mg PO DAILY  
20.  Senna 8.6 mg PO BID  
21.  Sucralfate 1 gm PO QID  
22.  Thiamine 100 mg PO DAILY  
23.  Ursodiol 500 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Lethargy from drug interactions 
Cerebellar stroke 
 
Discharge Condition:
Level of Consciousness: Lethargic but arousable.
Mental Status: Clear and coherent.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for lethargy and confusion as noted by your 
family.  We made sure that there were no drug interactions or 
compound effects that can cause sedation, and you received your 
MRI which showed a stroke, so you were seen by the Neurology 
consulting team.  
 
Followup Instructions:
___